US07544672B2
A suspension of 2-(pivaloylamino)-pyrrolo[2,3-d]pyrimidine and ZnCl2 (3-20 equiv.) in wet EtOH (5 vol % water) was heated to 80° C., and monitored by HPLC. When the reaction reached completion, DCM was added, and the organic layer was washed with sat. aq. NaHCO3 and brine. Drying (Na2SO4) and concentration afforded the desired 2-amino-pyrrolo[2,3-d]pyrimidine.

reactant | 2-(pivaloylamino)-pyrrolo[2,3-d]pyrimidine | C(C(C)(C)C)(=O)NC1=NC=C2C(N1)=NC=C2 | C11H14N4O
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOH | CCO | C2H6O
catalyst | ZnCl2 | 3-20 equiv. | [Cl-].[Cl-].[Zn+2]
product | 2-amino-pyrrolo[2,3-d]pyrimidine | NC1=NC=C2C(N1)=NC=C2 | C6H6N4
